US07060850B2
Preparation 4-[3-(perfluorooctyl)propyloxy]benzaldehyde
A 500 mL 2-neck flask equipped with thermometer and gas inlet charged with potassium carbonate (27.6 g), hydroxy benzaldehyde (13.4 g), and 3-(perfluorooctyl)propyl iodide (58.8 g) in DMF (200 mL) was heated to 65° C. (internal temperature). The mixture was stirred at 65° C. until the reaction was complete. The reaction mixture was cooled to room temperature. Water (300 mL) and ether (300 mL) were added and the mixture stirred vigorously for 5 min. The layers were separated and the organic layer retained. The aqueous layer was extracted with ether (3×200 mL). The combined organic layers were washed with water (2×100 mL), Na2S2O3 (1×100 mL), 2.5 N NaOH (3×100 mL), and aqueous NaCl (1×100 mL). The organic layer was dried over MgSO4, filtered and concentrated. The product was further dried under high vacuum for 5 h to give desired product (53 g, 91% yield). The structure of the product was characterized 1H NMR.

reactant | potassium carbonate | 27.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydroxy benzaldehyde | 13.4 g | OC1=C(C=O)C=CC=C1 | C7H6O2
reactant | 3-(perfluorooctyl)propyl iodide | 58.8 g | FC(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(CCCI)F | C11H6F17I
reactant | Water | 300 mL | O | H2O
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
solvent | ether | 300 mL | CCOCC | C4H10O
product | 4-[3-(perfluorooctyl)propyloxy]benzaldehyde | 53 g, 91% yield | FC(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(CCCOC1=CC=C(C=O)C=C1)F | C18H11F17O2
